US05364871
A solution of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole (1.0 g) and potassium cyanate (0.5 g) in water (50 ml) was stirred for 3.5 hours at room temperature. The resulting precipitate was collected by filtration. The precipitate was suspended in water (30 ml) and then a saturated aqueous potassium carbonate solution (20 ml) was added. The mixture was stirred for 1 hour at room temperature. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and water afforded 2-(diaminomethyleneamino)-4-(2-ureidomethylthiazol-4-yl)thiazole (0.35 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole | 1.0 g | NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C8H10N6S2
reactant | potassium cyanate | 0.5 g | [O-]C#N.[K+]
solvent | water | 50 ml | O | H2O
product | 2-(diaminomethyleneamino)-4-(2-ureidomethylthiazol-4-yl)thiazole | 0.35 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)CNC(=O)N | C9H11N7OS2
